US05387685
α-(3,4-Dimethoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile
The procedure of Example 49 is repeated using 0.345 g of tetrahydropapaverine hydrochloride and 0.30 g of α-(5-iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile. This affords 0.263 g of the desired product as a yellow oil.

reactant | tetrahydropapaverine hydrochloride | 0.345 g | COC1=C(C=C(C=C1)CC2C3=CC(=C(C=C3CCN2)OC)OC)OC.Cl
reactant | α-(5-iodopentyl)-3,4-dimethoxy-α-[(4-methylphenyl)thio]benzeneacetonitrile | 0.30 g | ICCCCCC(C#N)(C1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C22H26INO2S
product | α-(3,4-Dimethoxyphenyl)-1-[(3,4-dimethoxyphenyl)methyl]-3,4-dihydro-6,7-dimethoxy-α-[(4-methylphenyl)thio]-2(1H)isoquinolineheptanenitrile | 0.263 g | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1C(C2=CC(=C(C=C2CC1)OC)OC)CC1=CC(=C(C=C1)OC)OC)SC1=CC=C(C=C1)C | C42H50N2O6S
